US04579848
N-[3-(2-Amino[1,2,4]triazolo[1,5-c]pyrimidin-5yl) phenyl]-4-methylbenzenesulfonamide
A 250 mg portion of N-[5-[3-[[(4-methylphenyl) sulfonyl]amino]phenyl][1,2,4]triazolo[1,5-c]pyrimidin-2-yl]acetamide was dissolved in 30 ml of dioxane. A 15 ml portion of 1N hydrochloric acid was added, the mixture was allowed to stand 22 hours, concentrated, neutralized with aqueous potassium bicarbonate and extracted with ethyl acetate. The organic extract was evaporated and the residue taken up in 1% methanol in chloroform and filtered through hydrous magnesium silicate. The filtrate was evaporated and the residue crystallized from ethyl acetatecyclohexane giving 15 mg of the desired product as white crystals, mp 205°-208° C.

reactant | N-[5-[3-[[(4-methylphenyl) sulfonyl]amino]phenyl][1,2,4]triazolo[1,5-c]pyrimidin-2-yl]acetamide | CC1=CC=C(C=C1)S(=O)(=O)NC=1C=C(C=CC1)C1=NC=CC=2N1N=C(N2)NC(C)=O | C20H18N6O3S
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | N-[3-(2-Amino[1,2,4]triazolo[1,5-c]pyrimidin-5yl) phenyl]-4-methylbenzenesulfonamide | 15 mg | NC1=NN2C(=NC=CC2=N1)C=1C=C(C=CC1)NS(=O)(=O)C1=CC=C(C=C1)C | C18H16N6O2S
